US06824882B2
A mixture of 12.40 g of 1-bromo-4-(nonafluorobutyl)butane and 21.00 g of triethyl phosphite was heated at 150° C. After 18 hr, diethyl ethylphosphonate and other volatiles were removed from the mixture by distillation, b.p. 30-50° C. at 0.05 torr (7 Pa). Bulb-to-bulb distillation of the remaining concentrated mixture provided 13.0 g of 1-(diethylphosphono)-4-(nonafluorobutyl)butane as a clear, colorless liquid, b.p. 105-110° C. at 0.05 torr (7 Pa).

reactant | 1-bromo-4-(nonafluorobutyl)butane | 12.40 g | BrCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C8H8BrF9
reactant | triethyl phosphite | 21.00 g | P(OCC)(OCC)OCC | C6H15O3P
product | 1-(diethylphosphono)-4-(nonafluorobutyl)butane | 13.0 g | C(C)OP(=O)(OCC)CCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C12H18F9O3P
